US05643878
c) 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(m-cyanophenylmethyl)-hexanoic acid
Analogously to Example 1j), 1.4 g (3.2 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-cyanophenylmethyl)-hexanoic acid in 20 ml of DMF are silylated with 2.2 g (14.6 mmol) of tert-butyldimethylchlorosilane and 1.8 g (26 mmol) of imidazole. Hydrolysis of the silyl ester function with 2.6 g of potassium carbonate in 55 ml of methanol/THF/water 8:1:2, followed by column chromatography (SiO2, ethyl acetate/hexane 1:1), yields the title compound: TLC Rf (A)=0.39; tRet (I)=19.8 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-cyanophenylmethyl)-hexanoic acid | 3.2 mmol, 1.4 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)C#N)O)CC1=CC=CC=C1 | C25H30N2O5
reactant | tert-butyldimethylchlorosilane | 14.6 mmol, 2.2 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 26 mmol, 1.8 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | methanol THF water | 55 ml | CO.C1CCOC1.O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(m-cyanophenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)C#N)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C31H44N2O5Si
